US07399780B2
2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carbonitrile hydrochloride
To a suspension of 5-cyanooxindole (720 mg, 4.55 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (248 mg, 6.2 mmol, 60% dispersion in oil). After 15 min, was added 4-[(6-chloropyridin-3-yl)methyl]morpholine (323 mg, 1.52 mmol; described in: Maienfisch, P. et al. J. Med. Chem. 2000, 43, 5003) to the solution. The reaction mixture was heated at reflux for 1 h. The solvent was removed in vacuo, and the residue was partitioned between ethyl acetate and water. A 2 M aqueous HCl solution was added to the ethyl acetate and water mixture until slightly acidic pH, and then NaHCO3 (s) was added until saturation. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and the solvent was removed in vacuo. The crude product was dissolved in a mixture of methanol and ethyl acetate and was cooled on ice. A solution of HCl in diethyl ether was added until acidic pH. Approximately half of the solvent volume was removed in vacuo. The precipitated hydrochloride salt was filtered, washed with ethyl acetate, and dried in vacuo. The salt was converted back to the base by partitioning between ethyl acetate and an aqueous saturated NaHCO3 solution. The obtained material (142 mg) was purified on a silica gel column using chloroform/ethanol, (9:1), as the eluent affording 34 mg (7% yield) of the title compound as the base as a yellow solid: 1H NMR (CDCl3, 400 MHz) δ 14.96 (br s, 1 H), 8.83 (br s, 1 H), 7.79 (dd, J=9, 1 Hz, 1 H), 7.69 (s, 1 H), 7.63 (s, 1 H), 7.50 (d, J=9 Hz, 1 H), 7.29-7.26 (m, 1 H), 7.06 (d, J=8 Hz, 1 H), 3.75-3.72 (m, 4 H), 3.44 (s, 2 H), 2.50-2.49 (m, 4 H).

reactant | 5-cyanooxindole | 4.55 mmol, 720 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 6.2 mmol, 248 mg | [H-].[Na+]
reactant | 4-[(6-chloropyridin-3-yl)methyl]morpholine | 1.52 mmol, 323 mg | ClC1=CC=C(C=N1)CN1CCOCC1 | C10H13ClN2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carbonitrile hydrochloride | 34 mg, 7% yield | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C#N | InChI=1S/C19H18N4O2.ClH/c20-10-13-1-3-16-15(9-13)18(19(24)22-16)17-4-2-14(11-21-17)12-23-5-7-25-8-6-23;/h1-4,9,11,22,24H,5-8,12H2;1H
